US06855722B2
2-Benzyl-3-{5-[3-(2-pyridylamino)propoxy]indolyl}propanoic acid
1,1′-(Azodicarbonyl)dipiperidine (0.18 g, 0.7 mmol) was added to a solution of methyl 3-(5-hydoxylindolyl)-2-benzylpropanoate (0.12 g, 0.39 mmol), as prepared in the preceding step, 2-(3-hydroxypropyl)aminopyridine (0.07 g, 0.47 mmol), as prepared instep b of Example 1, and tri-n-butylphosphine (0.14 g, 0.7 mmol) in tetrahydrofuran (6.0 mL). After stirring at ambient temperature overnight (16 h), the reaction was concentrated in vacuo and the residue purified by flash chromatography on silica gel (10%-50% ethyl acetate in hexane) to give the title compound as a yellow oil (0.064 g, 38%). 1H-NMR (400 MHz, CDCl3) δ 8.08 (br s, 1H), 7.40 (m, 1H), 7.37 (m, 1H), 7.22 (m, 2H), 7.00 (m, 3H), 6.84 (dd, J=8.9, 2.4 Hz, 1H), 6.54 (m, 1H), 6.40 (d, J=8.4 Hz, 2H), 6.36 (d, J=3.1 Hz, 1H), 4.77 (br s, 1H), 4.40 (m, 1), 4.17 (m, 3H), 3.52 (m, 5H), 3.24 (m, 1), 3.08 (m, 1H), 2.76 (m, 1H), 2.11 (m, 2H).

reactant | 1,1′-(Azodicarbonyl)dipiperidine | 0.7 mmol, 0.18 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | methyl 3-(5-hydoxylindolyl)-2-benzylpropanoate | 0.39 mmol, 0.12 g | OC=1C=C2C=C(NC2=CC1)CC(C(=O)OC)CC1=CC=CC=C1 | C19H19NO3
reactant | 2-(3-hydroxypropyl)aminopyridine | 0.47 mmol, 0.07 g | OCCCNC1=NC=CC=C1 | C8H12N2O
reactant | tri-n-butylphosphine | 0.7 mmol, 0.14 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | 2-Benzyl-3-{5-[3-(2-pyridylamino)propoxy]indolyl}propanoic acid | 0.064 g, 38% | C(C1=CC=CC=C1)C(C(=O)O)CC=1NC2=CC=C(C=C2C1)OCCCNC1=NC=CC=C1 | C26H27N3O3
